US07282501B2
Step A: 3-{2-(Isopropoxycarbonylamino-methyl)-4-[2-(5-methyl-2-morpholin-4-yl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid tert-butyl ester
3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester (272 mg, 0.806 mmol) and toluene-4-sulfonic acid 2-(5-methyl-2-morpholin-4-yl-thiazol-4-yl)-ethyl ester (522 mg, 1.36 mmol) were reacted according to Standard procedure A. Purification using radial chromatography (CH2Cl2/EtOAc 98:2 to 75:25) gave the title compound as a white solid (387 mg, 98%). 1H NMR (400 MHz, CDCl3) δ 1.14 (d, 6H, J=5.9 Hz), 1.32 (s, 9H), 2.16 (s, 3H), 2.39 (t, 2H, J=7.6 Hz), 2.77 (t, 2H, J=7.6 Hz), 2.84 (t, 2H, J=7.1 Hz), 3.28 (t, 4H, J=4.9 Hz), 3.70 (t, 4H, J=4.9 Hz), 4.08 (t, 2H, J=7.1 Hz), 4.25 (d, 2H, J=5.4 Hz), 4.83 (heptet, 1H, J=4.9 Hz), 6.66 (dd, 1H, J=2.4, 8.3 Hz), 6.72 (d, 1H, J=2.4 Hz), 6.98 (d, 1H, J=8.3 Hz). MS (ES) m/e 548.3 [M+1].

reactant | 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 0.806 mmol, 272 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C18H27NO5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-morpholin-4-yl-thiazol-4-yl)-ethyl ester | 1.36 mmol, 522 mg | CC1=C(N=C(S1)N1CCOCC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H22N2O4S2
product | 3-{2-(Isopropoxycarbonylamino-methyl)-4-[2-(5-methyl-2-morpholin-4-yl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid tert-butyl ester | 387 mg, 98% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(SC1C)N1CCOCC1)CNC(=O)OC(C)C)=O | C28H41N3O6S
